US07642264B2
Trifluoro-methanesulfonic acid 4-(3-methoxy-4-trifluoromethyl-phenyl)-6-methyl-pyridin-2-yl ester
The title compound was prepared from the above described 4-(3-methoxy-4-trifluoromethyl-phenyl)-6-methyl-1H-pyridin-2-one (2.66 g, 9.0 mmol) and trifluoromethanesulfonic anhydride (1.9 mL, 10.8 mmol) according to the general procedure Ia to d preparation of triflates. Obtained as a white solid (3.25 g, 83%). MS (ISN) 474.1 [(M+OAc−)−].

reactant | 4-(3-methoxy-4-trifluoromethyl-phenyl)-6-methyl-1H-pyridin-2-one | 9.0 mmol, 2.66 g | COC=1C=C(C=CC1C(F)(F)F)C1=CC(NC(=C1)C)=O | C14H12F3NO2
reactant | trifluoromethanesulfonic anhydride | 10.8 mmol, 1.9 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Trifluoro-methanesulfonic acid 4-(3-methoxy-4-trifluoromethyl-phenyl)-6-methyl-pyridin-2-yl ester | COC=1C=C(C=CC1C(F)(F)F)C1=CC(=NC(=C1)C)OS(=O)(=O)C(F)(F)F | C15H11F6NO4S
